US07423051B2
A solution of 2,6-dichloronicotinic acid (10 g, 46.9 mmol, Aldrich 90%) was dissolved in concentrated ammonium hydroxide (100 mL, 29.4%, Fisher) and heated at 130-160° C. in a pressure bottle for 1-2 days before solvent was removed in vacuo. The residue was treated with water and the pH was lowered to ˜8 with concentrated hydrochloric acid. The resulting mixture was extracted with ethyl acetate and the combined organic extracts were washed with brine, dried, concentrated and the crude product was recrystallized from ethyl acetate to give 2-Amino-6-chloro-nicotinic acid as white crystalline (2.74g, 34 % yield). HRMS, observed: 172.0042, Calcd for M+: 172.0040

reactant | 2,6-dichloronicotinic acid | 46.9 mmol, 10 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
product | 2-Amino-6-chloro-nicotinic acid | 34 % yield | NC1=C(C(=O)O)C=CC(=N1)Cl | C6H5ClN2O2
